US05114461
Dry triethylamine (3.24 g) was added at 0°-5° C. to a stirred solution of diethyl cyanophosphate (1.96 g), 4-trifluoromethylbenzoic acid (2.28 g) and piperidine-2,4-dione (1.13 g) in dry dimethylformamide (50 ml) and the mixture stirred at ambient temperature for 5 hours. The mixture was diluted with dichloromethane (70 ml) and the solution washed successively with 2N hydrochloric acid (70 ml) and water (5×30 ml). The dichloromethane solution was dried over magnesium sulphate and evaporated under reduced pressure to give a brown solid which was recrystallised from toluene (11 ml) to give 3-(4-trifluoromethylbenzoyl)piperidine-2,4-dione (0.44 g), mp 197°-200° C., as a pale green crystalline solid.

reactant | triethylamine | 3.24 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 1.96 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | 4-trifluoromethylbenzoic acid | 2.28 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | piperidine-2,4-dione | 1.13 g | N1C(CC(CC1)=O)=O | C5H7NO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-(4-trifluoromethylbenzoyl)piperidine-2,4-dione | 0.44 g | FC(C1=CC=C(C(=O)C2C(NCCC2=O)=O)C=C1)(F)F | C13H10F3NO3
